US07186729B2
4-(4-Chloro-3-nitro-phenyl)-1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-piperidin-4-ol
To a solution of the 4-(4-Chloro-3-nitro-phenyl)-piperidin-4-ol (0.295 g, 1.2 mmol) in isopropanol was added 2,6-lutidine (0.225 mL, 2.1 mmol) and catalytic potassium iodide. This mixture was heated to 80° C., and treated with 2-[5-(3-Bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (0.224 g, 0.6 mmol), added in portions over 1 h. The solution was then stirred at 80° C. for an additional 14 h. The reaction was concentrated in vacuo, then purified by Isco flash chromatography (15% methanol/85% methylene chloride) to yield the title compound (0.100 g, 30%). 1H-NMR (CDCl3): δ 1.53 (s, 6H), 1.70 (d, 2H), 1.81–2.18 (m, 4H), 2.3–2.44 (m, 4H), 2.56 (t, 2H), 2.69 (d, 2H), 5.32 (bs, 2H), 6.16 (t, 1H), 6.81 (d, 1H), 7.28 (t, 2H), 7.48 (t, 2H), 7.58 (t, 2H), 8.06 (s, 1H). ESI-MS m/z: 550 (M+1), retention time 1.51.

reactant | 4-(4-Chloro-3-nitro-phenyl)-piperidin-4-ol | 1.2 mmol, 0.295 g | ClC1=C(C=C(C=C1)C1(CCNCC1)O)[N+](=O)[O-] | C11H13ClN2O3
reactant | 2,6-lutidine | 2.1 mmol, 0.225 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | potassium iodide | [I-].[K+]
reactant | 2-[5-(3-Bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.6 mmol, 0.224 g | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-(4-Chloro-3-nitro-phenyl)-1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-piperidin-4-ol | 0.100 g, 30% | ClC1=C(C=C(C=C1)C1(CCN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O)O)[N+](=O)[O-] | C30H32ClN3O5
